US04031226
A mixture of 0.74 parts of 1-(benzoyl)aziridine, 1.06 parts of 4-(4- chlorophenyl)-4-piperidinol, 5.4 parts of benzene and 0.4 parts of methanol is stirred and refluxed for 2 hours. The reaction mixture is cooled. Upon the addition of 1,1'-oxybisethane, the product is precipitated. After stirring for 15 minutes, the product is filtered off and dried, yielding 1.1 parts of N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl] ethyl} benzamide; mp. 169° C.

reactant | 1-(benzoyl)aziridine | C(C1=CC=CC=C1)(=O)N1CC1 | C9H9NO
reactant | 4-(4- chlorophenyl)-4-piperidinol | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | methanol | CO | CH4O
solvent | 1,1'-oxybisethane | O(CC)CC | C4H10O
product | N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl] ethyl} benzamide | ClC1=CC=C(C=C1)C1(CCN(CC1)CCNC(C1=CC=CC=C1)=O)O | C20H23ClN2O2
